US08871756B2
1-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)ethanone
A suspension of 2,3,4,5-tetrahydro-1H-2-benzazepine hydrochloride (10 g, 54.4 mmol) in dry dichloromethane (450 mL) was stirred at 0° C. Triethylamine (18.21 mL, 130.6 mmol) was added followed by the dropwise addition of acetic anhydride (6.18 mL, 65.3 mmol) in dry dichloromethane (50 mL). The reaction was then stirred for 1 hour whilst allowing the temperature to rise slowly to room temperature. The resulting mixture was washed with 1 N hydrochloric acid (200 mL) and brine (200 mL), dried over sodium sulfate and concentrated in vacuo to give 10 g of product as colorless oil (yield was 97%). It was used in next step without further purification. MS obsd. (ESI+) [(M+H)+] 190.

reactant | 2,3,4,5-tetrahydro-1H-2-benzazepine hydrochloride | 54.4 mmol, 10 g | Cl.C1NCCCC2=C1C=CC=C2
reactant | Triethylamine | 130.6 mmol, 18.21 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 65.3 mmol, 6.18 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)ethanone | 10 g, yield was 97% | C1N(CCCC2=C1C=CC=C2)C(C)=O | C12H15NO
